US09290436B2
For example, idebenone dipalmitoyl glycerate may be prepared by a method comprising the steps of (a) subjecting benzyl acrylate to a dihydroxylation reaction to form benzyl 2,3-dihydroxypropanoate; (b) reacting the benzyl 2,3-dihydroxypropanoate with palmitoyl chloride to form 3-(benzyloxy)-3-oxopropane-1,2diyl dipalmitate; (c) reacting the 3-(benzyloxy)-3-oxopropane-1,2diyl dipalmitate with ethyl acetate to form 2,3-bis(palmitoyloxy)propanoic acid; and (d) reacting the 2,3-bis(palmitoyloxy)propanoic acid with idebenone to form idebenone dipalmitoyl glycerate.

reactant | 3-(benzyloxy)-3-oxopropane-1,2diyl dipalmitate | C(CCCCCCCCCCCCCCC)(=O)OCC(C(=O)OCC1=CC=CC=C1)OC(CCCCCCCCCCCCCCC)=O | C42H72O6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-bis(palmitoyloxy)propanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)O)COC(CCCCCCCCCCCCCCC)=O | C35H66O6
